US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)pyrrolidine-2,4-dione (E4)
The compound was synthesized starting from ethyl 1-(1H-benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)-2,4-dioxo-pyrrolidine-3-carboxylate (which may be prepared in accordance with the procedure described for Intermediate 8; 0.12 g, 0.2676 mmol) and 5 N aqueous hydrochloric acid (6 ml) according to the method described in Method 1, step 3.

reactant | ethyl 1-(1H-benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)-2,4-dioxo-pyrrolidine-3-carboxylate | N1C=NC2=C1C=CC(=C2)N2C(C(C(C2C2=CC=C(C=C2)N2CCOCC2)=O)C(=O)OCC)=O | C24H24N4O5
reactant | hydrochloric acid | 5 N, 6 ml | Cl | ClH
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-morpholinophenyl)pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)N2CCOCC2)=O)=O | C21H20N4O3
